US05116404
3-(4-trifluoromethoxyphenyl)-5-bromo-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione (compound No. 1.33 of the present invention)
3.8 g of 3-(4-trifluoromethoxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione was added to 75 ml of acetic acid, followed by dropwise addition of 1.7 g of bromine to the solution with stirring at room temperature. The reaction mixture was further stirred for 2 hours and then the solvent was distilled away under reduced pressure. The residue was dissolved in 200 ml of ethyl acetate, washed with an aqueous solution of sodium hydrogencarbonate and water, and dried over anhydrous sodium sulfate. Then the solvent was distilled away to obtain 4.5 g of a crude product. This crude crystal product was washed with heated diisopropyl ether and dried to obtain 4.1 g of the objective compound.

reactant | 3-(4-trifluoromethoxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione | 3.8 g | FC(OC1=CC=C(C=C1)N1C(NC(=CC1=O)C1=C(C=CC=C1)Cl)=O)(F)F | C17H10ClF3N2O3
reactant | bromine | 1.7 g | BrBr | Br2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 3-(4-trifluoromethoxyphenyl)-5-bromo-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione | 4.1 g | FC(OC1=CC=C(C=C1)N1C(NC(=C(C1=O)Br)C1=C(C=CC=C1)Cl)=O)(F)F | C17H9BrClF3N2O3
